### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): morphisms from horns

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we show that a morphism from a horn can be constructed by gluing morphisms defined on the faces.

(Note: there was prior work at #9935, and #20448 for the case of the boundary.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 1]
```diff
@@ -146,11 +146,104 @@ lemma multicoequalizerDiagram :
...
     IsColimit ((multicoequalizerDiagram i).multicofork.toLinearOrder.map
       Subcomplex.toSSetFunctor) :=
   (multicoequalizerDiagram i).isColimit'
 
+variable {X : SSet.{u}}
+
+lemma hom_ext' {i : Fin (n + 2)} {f g : (Λ[n + 1, i] : SSet) ⟶ X}
+    (h : ∀ (j : Fin (n + 2)) (hj : j ≠ i), horn.ι i j hj ≫ f = horn.ι i j hj ≫ g) :
+    f = g := by
+  refine Multicofork.IsColimit.hom_ext  (isColimit i) (fun ⟨j, hj⟩ ↦ ?_)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]:
```suggestion
  refine Multicofork.IsColimit.hom_ext (isColimit i) (fun ⟨j, hj⟩ ↦ ?_)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 2]
```diff
@@ -146,11 +146,104 @@ lemma multicoequalizerDiagram :
...
+protected def IsCompatible
+    {i : Fin (n + 2)} (f : ∀ (j : Fin (n + 2)) (_ : j ≠ i), Δ[n] ⟶ X) : Prop := by
+  match n with
+  | 0 => exact True
+  | n + 1 => exact ∀ (j k : Fin (n + 3)) (hj : j ≠ i) (hk : k ≠ i) (hjk : j < k),
+      stdSimplex.δ (k.pred (Fin.ne_zero_of_lt hjk)) ≫ f j hj =
+      stdSimplex.δ (j.castPred (Fin.ne_last_of_lt hjk)) ≫ f k hk
+
+@[simp]
+lemma isCompatible_iff_true {i : Fin 2} (f : ∀ (j : Fin 2) (_ : j ≠ i), Δ[0] ⟶ X) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]:
```suggestion
lemma isCompatible_zero_iff_true {i : Fin 2} (f : ∀ (j : Fin 2) (_ : j ≠ i), Δ[0] ⟶ X) :
```
since that name could be a bit misleading.

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 3]
```diff
@@ -146,11 +146,104 @@ lemma multicoequalizerDiagram :
...
+
+/-- Let `i : Fin (n + 2)`. This is the condition that a family of morphisms
+`Δ[n] ⟶ X` for `j ≠ i` are the "faces" of a morphism  `Λ[n + 1, i] ⟶ X`. -/
+protected def IsCompatible
+    {i : Fin (n + 2)} (f : ∀ (j : Fin (n + 2)) (_ : j ≠ i), Δ[n] ⟶ X) : Prop := by
+  match n with
+  | 0 => exact True
+  | n + 1 => exact ∀ (j k : Fin (n + 3)) (hj : j ≠ i) (hk : k ≠ i) (hjk : j < k),
+      stdSimplex.δ (k.pred (Fin.ne_zero_of_lt hjk)) ≫ f j hj =
+      stdSimplex.δ (j.castPred (Fin.ne_last_of_lt hjk)) ≫ f k hk
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]:
```suggestion
    {i : Fin (n + 2)} (f : ∀ (j : Fin (n + 2)) (_ : j ≠ i), Δ[n] ⟶ X) : Prop :=
  match n with
  | 0 => True
  | n + 1 => ∀ (j k : Fin (n + 3)) (hj : j ≠ i) (hk : k ≠ i) (hjk : j < k),
      stdSimplex.δ (k.pred (Fin.ne_zero_of_lt hjk)) ≫ f j hj =
      stdSimplex.δ (j.castPred (Fin.ne_last_of_lt hjk)) ≫ f k hk
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 4]
```diff
@@ -146,11 +146,104 @@ lemma multicoequalizerDiagram :
...
+    (hj : j ≠ i := by grind) (hk : k ≠ i := by grind) (hjk : j < k := by grind) :
+    stdSimplex.δ (k.pred (Fin.ne_zero_of_lt hjk)) ≫ f j hj =
+    stdSimplex.δ (j.castPred (Fin.ne_last_of_lt hjk)) ≫ f k hk :=
+  hf j k hj hk hjk
+
+variable {i : Fin (n + 2)} {f : ∀ (j : Fin (n + 2)) (_ : j ≠ i), (Δ[n] : SSet) ⟶ X}
+
+open stdSimplex in
+/-- Auxiliary definition for `horn.IsCompatible.desc`. -/
+def multicofork (hf : horn.IsCompatible f) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]: Do we need it after `desc` and in the presence of other lemmas like `hom_ext'`?
Things compile just fine if you make it private.

```suggestion
private def multicofork (hf : horn.IsCompatible f) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 5]
```diff
@@ -473,6 +473,77 @@ lemma faceSingletonComplIso_hom_ι {n : ℕ} (i : Fin (n + 2)) :
...
+/-- The order isomorphism between `Fin n` and `{i, j}ᶜ` when `i < j` are
+elements in `Fin (n + 2)`. -/
+noncomputable def finOrderIsoPairCompl {n : ℕ} (i j : Fin (n + 2)) (h : i < j) :
+    Fin n ≃o ({i, j}ᶜ : Finset _) where
+  toEquiv := by
+    refine Equiv.ofBijective
+      (fun k ↦ ⟨j.succAbove ((i.castPred (Fin.ne_last_of_lt h)).succAbove k), ?_⟩)
+        ⟨fun _ _ hk ↦ ?_, fun ⟨l, hl⟩ ↦ ?_⟩
+    · simp
+      grind [Fin.succAbove, Fin.castPred]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    · grind [compl_insert, mem_compl, Fin.succAbove, Fin.castPred]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 6]
```diff
@@ -473,6 +473,77 @@ lemma faceSingletonComplIso_hom_ι {n : ℕ} (i : Fin (n + 2)) :
...
+    · exact ((Fin.succAboveOrderEmb (i.castPred (Fin.ne_last_of_lt h))).trans
+        (Fin.succAboveOrderEmb j)).injective (by rwa [Subtype.ext_iff] at hk)
+    · obtain ⟨m, rfl⟩ : l ∈ Set.range j.succAbove := by
+        simp [Fin.range_succAbove] at hl ⊢
+        tauto
+      obtain ⟨k, hk⟩ : m ∈ Set.range (i.castPred (Fin.ne_last_of_lt h)).succAbove := by
+        simp only [Fin.range_succAbove, Set.mem_compl_iff, Set.mem_singleton_iff]
+        rintro rfl
+        simp [j.succAbove_of_castSucc_lt (i.castPred (Fin.ne_last_of_lt h)) (by simpa)] at hl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
        grind [Fin.range_succAbove, compl_insert, Fin.succAbove, Fin.castPred]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 7]
```diff
@@ -473,6 +473,77 @@ lemma faceSingletonComplIso_hom_ι {n : ℕ} (i : Fin (n + 2)) :
...
+    refine Equiv.ofBijective
+      (fun k ↦ ⟨j.succAbove ((i.castPred (Fin.ne_last_of_lt h)).succAbove k), ?_⟩)
+        ⟨fun _ _ hk ↦ ?_, fun ⟨l, hl⟩ ↦ ?_⟩
+    · simp
+      grind [Fin.succAbove, Fin.castPred]
+    · exact ((Fin.succAboveOrderEmb (i.castPred (Fin.ne_last_of_lt h))).trans
+        (Fin.succAboveOrderEmb j)).injective (by rwa [Subtype.ext_iff] at hk)
+    · obtain ⟨m, rfl⟩ : l ∈ Set.range j.succAbove := by
+        simp [Fin.range_succAbove] at hl ⊢
+        tauto
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
        grind [Fin.range_succAbove, mem_compl, Fin.succAbove]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 8]
```diff
@@ -146,11 +146,104 @@ lemma multicoequalizerDiagram :
...
+      ∀ (j : Fin (n + 2)) (hj : j ≠ i), horn.ι i j hj ≫ φ = f j hj :=
+  ⟨(horn.isColimit.{u} i).desc hf.multicofork, fun j hj ↦ by
+    rw [← cancel_epi (stdSimplex.faceSingletonComplIso j).inv]
+    simpa using (horn.isColimit.{u} i).fac hf.multicofork (.right ⟨j, hj⟩)⟩
+
+/-- Let `i : Fin (n + 2)`. Given a compatible family of morphisms `Δ[n] ⟶ X` for `j ≠ i`,
+this is the glued morphism `Λ[n + 1, i] ⟶ X`. -/
+@[no_expose]
+noncomputable def desc (hf : horn.IsCompatible f) :
+    (Λ[n + 1, i] : SSet) ⟶ X :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]:
```suggestion
noncomputable def desc (hf : horn.IsCompatible f) : (Λ[n + 1, i] : SSet) ⟶ X :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean [hunk 9]
```diff
@@ -146,11 +146,103 @@ lemma multicoequalizerDiagram :
...
+
+/-- Let `i : Fin (n + 2)`. Given a compatible family of morphisms `Δ[n] ⟶ X` for `j ≠ i`,
+this is the glued morphism `Λ[n + 1, i] ⟶ X`. -/
+@[no_expose]
+noncomputable def desc (hf : horn.IsCompatible f) : (Λ[n + 1, i] : SSet) ⟶ X :=
+  hf.exists_desc.choose
+
+@[reassoc (attr := simp)]
+lemma ι_desc (hf : horn.IsCompatible f) (j : Fin (n + 2))
+    (hj : j ≠ i) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HornColimits.lean]:
```suggestion
lemma ι_desc (hf : horn.IsCompatible f) (j : Fin (n + 2)) (hj : j ≠ i) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 10]
```diff
@@ -473,6 +473,73 @@ lemma faceSingletonComplIso_hom_ι {n : ℕ} (i : Fin (n + 2)) :
...
+  obtain ⟨j, rfl⟩ := j.eq_succ_of_ne_zero (Fin.ne_zero_of_lt h)
+  dsimp
+  rw [Fin.pred_succ, stdSimplex.δ_comp_δ (by grind)]
+
+@[reassoc]
+lemma homOfLE_faceSingletonComplIso_inv_eq_facePairComplIso_inv_δ_pred {n : ℕ}
+    (i j : Fin (n + 3)) (h : i < j) :
+    Subcomplex.homOfLE (by simp [face_le_face_iff]) ≫
+      (faceSingletonComplIso.{u} i).inv =
+        (facePairComplIso i j h).inv ≫ stdSimplex.δ (j.pred (Fin.ne_zero_of_lt h)) := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    Subcomplex.homOfLE (by simp [face_le_face_iff]) ≫
      (faceSingletonComplIso.{u} i).inv =
    (facePairComplIso i j h).inv ≫ stdSimplex.δ (j.pred (Fin.ne_zero_of_lt h)) := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 11]
```diff
@@ -473,6 +473,73 @@ lemma faceSingletonComplIso_hom_ι {n : ℕ} (i : Fin (n + 2)) :
...
+    ← cancel_mono (Subcomplex.ι _), ← cancel_epi (facePairComplIso i j h).hom,
+    facePairComplIso_hom_ι']
+
+@[reassoc]
+lemma homOfLE_faceSingletonComplIso_inv_eq_facePairComplIso_inv_δ_castPred
+    {n : ℕ} (i j : Fin (n + 3)) (h : i < j) :
+    Subcomplex.homOfLE (by simp [face_le_face_iff]) ≫
+      (faceSingletonComplIso.{u} j).inv =
+        (facePairComplIso i j h).inv ≫
+          stdSimplex.δ (i.castPred (Fin.ne_last_of_lt h)) := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    Subcomplex.homOfLE (by simp [face_le_face_iff]) ≫
      (faceSingletonComplIso.{u} j).inv =
    (facePairComplIso i j h).inv ≫ stdSimplex.δ (i.castPred (Fin.ne_last_of_lt h)) := by
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
